US07256305B2
In a 50 mL-volumetric autoclave were added deaerated n-butanol (20 mL), and thereto were added 4-aminopyridine (47 mg, 0.5 mmol) and (R)-ethylglycidyl ether (2.0 g, 20 mmol, >99% ee). Then to the mixture was added crystalline dicobaltoctacarbonyl complex (171 mg, 0.5 mmol). After covering the autoclave with a cap, carbon monoxide (1 MPa) was introduced therein and the mixture was reacted at 45° C. for 12 hours. After cooling to room temperature, the solvent was removed in vacuo. The residue was subjected to Kugelrohr distillation to give (R)-4-ethoxy-3-hydroxybutanoic acid n-butyl ester (3.7 g, 90%, >99% ee) as a colorless oil.

reactant | 4-aminopyridine | 0.5 mmol, 47 mg | NC1=CC=NC=C1 | C5H6N2
reactant | (R)-ethylglycidyl ether | 20 mmol, 2.0 g | C(C)OC[C@H]1CO1 | C5H10O2
reactant | carbon monoxide | [C]=O | CO
reactant | n-butanol | 20 mL | C(CCC)O | C4H10O
product | (R)-4-ethoxy-3-hydroxybutanoic acid n-butyl ester | 3.7 g, 90% | C(CCC)OC(C[C@H](COCC)O)=O | C10H20O4
